US07795249B2
To a solution of 4-(5-{[5-(2-hydroxyphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)benzaldehyde (0.205 g, 0.452 mmol) in THF (72 mL) was added pyrrolidine (0.042 mL, 0.50 mmol) and sodium triacetoxyborohydride (0.105 g, 0.497 mmol). The reaction mixture was allowed to stir at rt for 3 days. The solution was diluted with water and 1N aqueous HCl and extracted with EtOAc. The organic solutions were combined, washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give 2-[3-pyridin-3-yl-1-({5-[4-(pyrrolidin-1-ylmethyl)phenyl]-2-thienyl}carbonyl)-4,5-dihydro-1H-pyrazol-5-yl]phenol (I-56) (0.060 g, 0.118 mmol) as a white solid. LCMS: (FA) ES+ 509.4. 1H NMR (400 MHz, d6-DMSO) δ: 10.76-10.86 (bs, 1H), 9.74-9.82 (bs, 1H), 9.11 (s, 1H), 8.71-8.77 (m, 1H), 8.36-8.42 (m, 1H), 8.03-8.08 (m, 1H), 7.84-7.90 (m, 2H), 7.62-7.73 (m, 2H), 7.08 (t, 1H), 6.92-6.97 (m, 1H), 6.82-6.88 (m, 1H), 6.72 (t, 1H), 5.82-5.89 (m, 1H), 4.34-4.39 (m, 2H), 3.86-3.98 (m, 1H), 3.31-3.41 (m, 2H), 3.18-3.25 (m, 1H), 3.00-3.12 (m, 2H), 1.96-2.07 (m, 2H), and 1.82-1.94 (m, 2H).

reactant | 4-(5-{[5-(2-hydroxyphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)benzaldehyde | 0.452 mmol, 0.205 g | OC1=C(C=CC=C1)C1CC(=NN1C(=O)C1=CC=C(S1)C1=CC=C(C=O)C=C1)C=1C=NC=CC1 | C26H19N3O3S
reactant | pyrrolidine | 0.50 mmol, 0.042 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 0.497 mmol, 0.105 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 72 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
product | 2-[3-pyridin-3-yl-1-({5-[4-(pyrrolidin-1-ylmethyl)phenyl]-2-thienyl}carbonyl)-4,5-dihydro-1H-pyrazol-5-yl]phenol | 0.118 mmol, 0.060 g | N1=CC(=CC=C1)C1=NN(C(C1)C1=C(C=CC=C1)O)C(=O)C=1SC(=CC1)C1=CC=C(C=C1)CN1CCCC1 | C30H28N4O2S
